US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (300 mg, 1.26 mmol) in DMSO (2 mL) was added DIEA (244 mg, 1.89 mmol), and (S)—N-methyl-1-phenylethanamine (204 mg, 1.51 mmol) with stirring for 3 h at 85° C. in an oil bath. The reaction was then quenched by the addition of water (50 mL). The product was precipitated via the addition of water and collected by filtration to give (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a gray solid (323 mg, 76%).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 1.26 mmol, 300 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | DIEA | 1.89 mmol, 244 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)—N-methyl-1-phenylethanamine | 1.51 mmol, 204 mg | CN[C@@H](C)C1=CC=CC=C1 | C9H13N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 323 mg, 76% | CN(C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O)[C@@H](C)C1=CC=CC=C1 | C19H19N3O3
